US06518277B1
2-Amino-N-(2-chlorophenyl)-6-fluorobenzamide (1e)
Prepared according to Procedure A using 2-amino-6-fluorobenzoic acid (2.0 g, 12.9 mmol) and SOCl2 (2.3 mL, 32.2 mmol) in benzene (50 mL), followed by 2-chloroaniline (2.7 mL, 25.8 mmol) and CHCl3 (50 mL). The product was purified by chromatography in EtOAc/hexanes to provide 2.06 g of a pale orange solid (60%). 1H NMR (CDCl3) δ: 9.00 (d, J=17 Hz, 1H); 8.47 (d, J=8.3 Hz, 1H); 7.41 (d, J=8.0 Hz, 1H); 7.30 (t, J=7.9 Hz, 1H); 7.10-7.20 (m, 1H); 7.07 (t, J=7.7 Hz, 1H); 6.49 (d, J=8.3 Hz, 1H); 6.03 (br s, 2H). MS (ES): m/z 265.0 (M+).

reactant | 2-amino-6-fluorobenzoic acid | 12.9 mmol, 2.0 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | SOCl2 | 32.2 mmol, 2.3 mL | O=S(Cl)Cl | Cl2OS
reactant | 2-chloroaniline | 25.8 mmol, 2.7 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
product | 2-Amino-N-(2-chlorophenyl)-6-fluorobenzamide | 2.06 g, 60% | NC1=C(C(=O)NC2=C(C=CC=C2)Cl)C(=CC=C1)F | C13H10ClFN2O
